US07863446B2
Synthesis of 1-{5-[3-(aminosulfonyl)phenyl]-6-(4-fluorophenyl)-2-(trifluoromethyl)pyrimidin-4-yl}piperidine-4-carboxylic acid
A solution of ethyl 1-{5-[3-(aminosulfonyl)phenyl]-6-(4-fluorophenyl)-2-(trifluoromethyl)pyrimidin-4-yl}piperidine-4-carboxylate (0.4 g, 0.725 mmol) in tetrahydrofuran (4 ml) was treated with lithium hydroxide monohydrate (0.036 g, 0.87 mmol) in water (0.2 ml) and was stirred for 17 hours. Subsequently the reaction mixture was poured onto ice-cold water, acidified with dilute hydrochloric acid and extracted with dichloromethane (25 ml). Evaporation of organic layer furnished the required product. 1H-NMR (DMSO-d) δ: 1.39 (m, 2H), 1.64 (m, 2H), 2.09 (m, 1H), 2.84-2.89 (m, 2H), 3.66 (m, 2H), 7.02-7.07 (m, 2H), 7.07-7.13 (m, 2H), 7.37-7.39 (m, 2H), 7.49-7.53 (m, 1H), 7.69 (s, 1H), 7.72-7.74 (d, 1H), 12.25 (br, 1H, D2O exchangeable). MS m/z: 525.0 (M++1).

reactant | ethyl 1-{5-[3-(aminosulfonyl)phenyl]-6-(4-fluorophenyl)-2-(trifluoromethyl)pyrimidin-4-yl}piperidine-4-carboxylate | 0.725 mmol, 0.4 g | NS(=O)(=O)C=1C=C(C=CC1)C=1C(=NC(=NC1C1=CC=C(C=C1)F)C(F)(F)F)N1CCC(CC1)C(=O)OCC | C25H24F4N4O4S
reactant | lithium hydroxide monohydrate | 0.87 mmol, 0.036 g | O.[OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | water | 0.2 ml | O | H2O
product | 1-{5-[3-(aminosulfonyl)phenyl]-6-(4-fluorophenyl)-2-(trifluoromethyl)pyrimidin-4-yl}piperidine-4-carboxylic acid | NS(=O)(=O)C=1C=C(C=CC1)C=1C(=NC(=NC1C1=CC=C(C=C1)F)C(F)(F)F)N1CCC(CC1)C(=O)O | C23H20F4N4O4S
